US08685980B2
Using Buchwald Procedure A, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethyl amide (0.142 g, 0.485 mmol) and (+/−)-4-(6-amino-pyridin-3-yl)-2-methyl-piperazine-1-carboxylic acid tert-butyl ester (0.156 g, 0.533 mmol) gave 4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-methyl-piperazine-1-carboxylic acid tert-butyl ester (260 mg, 97%) (following SiO2 chromatography, eluting with 0-3% MeOH/dichloromethane). MS (ESI) m/z 549.3 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethyl amide | 0.485 mmol, 0.142 g | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | (+/−)-4-(6-amino-pyridin-3-yl)-2-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.533 mmol, 0.156 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)N)C | C15H24N4O2
product | 4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-methyl-piperazine-1-carboxylic acid tert-butyl ester | 260 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)C | C29H40N8O3
